US06235771B1
In DMF (150 ml) was dissolved 4-bromophenol (25 g). To the mixture was added potassium carbonate (30 g) and then was added dropwise 2-bromoethanol (23.5 g), and the mixture was stirred at 90° C. for 6 hours and cooled to room temperature. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=2/1) to give 2-(4-bromophenoxy)-1-ethanol (15.9 g).

reactant | 4-bromophenol | 25 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 23.5 g | BrCCO | C2H5BrO
reactant | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-(4-bromophenoxy)-1-ethanol | 15.9 g | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
